US05117830
To a solution of 6-chloropurine (6 g, 38.8 mmoles) in DMF was added sodium hydride 60% (0.93 g) over 1.5 hour period. (2-acetoxyethoxy)methyl bromide was then added at room temperature; the reaction mixture was allowed to stir for 2 hours under Nz atmosphere. H2O was added and the product was extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered, and evaporated in vacuo to give a light yellow solid 7.1 g, 68% yield of 9-[(2-acetoxy-ethoxy)methyl]-6-chloro-purine. The crude was used without further purification.

reactant | 6-chloropurine | 38.8 mmoles, 6 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | sodium hydride | 0.93 g | [H-].[Na+]
reactant | (2-acetoxyethoxy)methyl bromide | C(C)(=O)OCCOCBr | C5H9BrO3
reactant | H2O | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 9-[(2-acetoxy-ethoxy)methyl]-6-chloro-purine | 7.1 g, 68% yield | C(C)(=O)OCCOCN1C2=NC=NC(=C2N=C1)Cl | C10H11ClN4O3
